US07459567B2
Into dioxane (5 mL) was dissolved [4-bromo-2-(4-propoxyphenyl)thien-3-yl]acetate (0.340 g, 0.92 mmol) and 2-chlorophenylboronic acid (0.287 g, 1.84 mmol). K2CO3 (0.381 g, 2.76 mmol) was dissolved in H2O (0.5 mL) and added to the dioxane. The solution was degassed by bubbling argon through the mixture for five minutes. {1,1′-Bis(diphenylphosphino)-ferrocene}dichloropalladium(II) complex with dichloromethane (1:1) (0.027 g, 0.028 mmol) was added and the mixture heated under argon to 70° C. for 3 hours (followed by TLC 15:1 Hexane:EtOAc). The solvents were removed and the mixture partitioned between EtOAc and H2O. The EtOAc layer was dried (MgSO4) and absorbed onto silica gel. The product was purified by flash chromatography (20:1 hexane:EtOAc) to yield methyl [4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]acetate (0.320 g) as a white solid. mp 81-82° C.; 1H NMR (500 MHz, DMSO-d6) δ: 1.00 (t, 3H, J=7.48 Hz), 1.75 (m, 2H), 3.46 (s, 2H), 3.98 (t, 2H, J=6.41 Hz), 7.05 (d, 2H, J=8.85 Hz), 7.31 (dd, 1H, J=1.99 and 7.17 Hz), 7.42 (m, 5H), 7.56 (dd, 1H, J=1.22 and 7.78 Hz). MS (ES) m/z 401.1 ([M+H]+). MS (ES) m/z 418.1 ([M+NH4]+). Anal. calcd for C22H21ClO3S: C, 65.91; H, 5.28; N, 0.00. Found: C, 65.54; H, 5.21; N, 0.00.

reactant | [4-bromo-2-(4-propoxyphenyl)thien-3-yl]acetate | 0.92 mmol, 0.340 g | BrC=1C(=C(SC1)C1=CC=C(C=C1)OCCC)CC(=O)[O-]
reactant | 2-chlorophenylboronic acid | 1.84 mmol, 0.287 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 2.76 mmol, 0.381 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dichloromethane | 0.028 mmol, 0.027 g | ClCCl | CH2Cl2
solvent | H2O | 0.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Hexane | CCCCCC | C6H14
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | methyl [4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]acetate | 0.320 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)OCCC)CC(=O)OC | C22H21ClO3S
